US08242280B2
Step 1: Synthesis of (3-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid
To a solution of amino-(3-bromo-phenyl)-acetic acid hydrochloride (2 g, 7.6 mmol) and potassium carbonate (1.58 g, 11.4 mmol) in water (40 mL) was added a solution of di-tert-butyl dicarbonate (1.82 g, 8.4 mmol) in THF (40 mL). The resulting mixture was stirred at room temperature for 16 hours. The pH was adjusted to 4 by addition of hydrochloric acid (16 N) and the mixture extracted with ethyl acetate (30 mL×3). The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue (2.4 g, 96%) was used in next step without further purification. MS: m/z 330 (M+H+).

reactant | amino-(3-bromo-phenyl)-acetic acid hydrochloride | 7.6 mmol, 2 g | Cl.NC(C(=O)O)C1=CC(=CC=C1)Br
reactant | potassium carbonate | 11.4 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 8.4 mmol, 1.82 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 16 N | Cl | ClH
solvent | water | 40 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid | BrC=1C=C(C=CC1)C(C(=O)O)NC(=O)OC(C)(C)C | C13H16BrNO4
